US04746656
1-Benzoyl-1,2,4,7-tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester
A suspension of 1,2,4,7-tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester (36 mg; 0.1 mmole) in dichloromethane (2 ml) and pyridine (1 ml) under argon was treated with benzoyl chloride (28 mg; 0.2 mmole). The reaction was allowed to stir for 30 minutes and then diluted with ethyl acetate. The resulting solution was washed with 1N hydrochloric acid, water, sodium bicarbonate and brine. It was dried over anhydrous magnesium sulfate and evaporated. The residue was purified by preparative thin layer chromatography (40% acetone in hexanes) and the product was crystallized from absolute ethanol to provide a solid, melting point 201°-203° C.

reactant | 1,2,4,7-tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester | 0.1 mmole, 36 mg | CC=1NC=2N(C(C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])NC(C2)=O | C17H18N4O5
reactant | benzoyl chloride | 0.2 mmole, 28 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzoyl-1,2,4,7-tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester | C(C1=CC=CC=C1)(=O)N1C(C=C2N1C(C(=C(N2)C)C(=O)OC(C)C)C2=CC(=CC=C2)[N+](=O)[O-])=O | C24H22N4O6
